US03972886
B. 3-Allylthio-4-phenoxy-5-sulfamylbenzoic acid
3-Allylthio-5-chlorosulfonyl-4-phenoxybenzoic acid (1 g) is dissolved in cooled concentrated aqueous ammonia (20 ml) while stirring. After 1 hour the reaction mixture is heated on a steam bath for 5 minutes, cooled, and 3-allylthio-4-phenoxy-5-sulfamylbenzoic acid precipitated by addition of 4 N hydrochloric acid. After collection by filtration, recrystallisation from aqueous ethanol, and drying, the compound is obtained with a melting point of 218°-219°C.

reactant | 3-Allylthio-5-chlorosulfonyl-4-phenoxybenzoic acid | 1 g | C(C=C)SC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(=O)(=O)Cl | C16H13ClO5S2
reactant | ammonia | 20 ml | N | H3N
product | 3-Allylthio-4-phenoxy-5-sulfamylbenzoic acid | C(C=C)SC=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C16H15NO5S2
